US07767626B2
To 1.68 g (4.9 mmol) of [2-methyl-5-(3-trifluoromethylpyrazolyl)phenyl] 2,2,2-trifluoroethyl sulfide (Compound No. V-292 of the present invention) in 5 ml of chloroform, 1.02 g (5.1 mmol) of m-chlotoperbenzoic acid was added at 0° C. with stirring, and the reaction mixture was stirred at 0° C. for 1 hour. The reaction solution was mixed with 10 ml of 10% aqueous sodium sulfite and stirred at room temperature for 10 minutes, and then 20 ml of chloroform was added. The chloroform layer was washed with 20 ml of saturated aqueous sodium hydrogen carbonate three times and dried over anhydrous magnesium sulfate, and the chloroform was distilled off under reduced pressure to obtain 0.65 g of [2-methyl-5-(3-trifluoromethylpyrazolyl)phenyl] 2,2,2-trifluoroethyl sulfoxide (yield 37.1%) as a pale yellow solid (m.p. 109-110° C.).

reactant | [2-methyl-5-(3-trifluoromethylpyrazolyl)phenyl] 2,2,2-trifluoroethyl sulfide | 4.9 mmol, 1.68 g | FC(CSC1=C(C=CC(=C1)C=1C(=NNC1)C(F)(F)F)C)(F)F | C13H10F6N2S
reactant | sodium sulfite | 10 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | [2-methyl-5-(3-trifluoromethylpyrazolyl)phenyl] 2,2,2-trifluoroethyl sulfoxide | 0.65 g, yield 37.1% | FC(CS(=O)C1=C(C=CC(=C1)C=1C(=NNC1)C(F)(F)F)C)(F)F | C13H10F6N2OS
